US04382939
3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide
Prepared by the method described in Example 36 from 3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride (23.3 g, 0.052 moles) and 48% aqueous hydrobromic acid (200 ml). After washing several times with cold acetone, the product (25.0 g, mp 257°-258° C.) is used as an intermediate without additional purification.

reactant | 3-[2-(diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrochloride | 0.052 moles, 23.3 g | Cl.Cl.C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)OC)OC)C)CC
reactant | hydrobromic acid | 200 ml | Br | BrH
product | 3-[2-(Diethylamino)propyl]-1,2,3,4-tetrahydro-8,9-dihydroxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one dihydrobromide | Br.Br.C(C)N(C(CN1CC2=C(CC1)C1=C(OC2=O)C=C(C(=C1)O)O)C)CC | InChI=1S/C19H26N2O4.2BrH/c1-4-21(5-2)12(3)10-20-7-6-13-14-8-16(22)17(23)9-18(14)25-19(24)15(13)11-20;;/h8-9,12,22-23H,4-7,10-11H2,1-3H3;2*1H
